US09353107B2
Step-ii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-methylpiperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-iii of example-1, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-methylpiperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (74 mg, 0.119 mmol) was hydrolyzed by lithium hydroxide (50 mg, 1.19 mmol), THF/Methanol/water (12/6/3 ml) to yield 8 mg (30 mg 53.9% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 9.4 (b, 1H), 8.566-8.559 (d, 1H), 8.185-8.178 (d, 1H), 7.874 (s, 1H), 7.706 (s, 1H), 7.451-7.443 (d, 1H), 7.413-7.3 (m, 2H), 7.2-6.956 (m, 5H), 5.392 (s, 2H), 3.340-3.307 (m, 4H), 2.669-2.636 (m, 4H), 2.401 (s, 3H). MS: m/z=467.4 (M+1); HPLC: 98.239% in method B.

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-methylpiperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.119 mmol, 74 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=CC=C3)N3CCN(CC3)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C35H33FN6O2S
reactant | lithium hydroxide | 1.19 mmol, 50 mg | [OH-].[Li+]
solvent | THF Methanol water | 3 ml | C1CCOC1.CO.O
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-methylpiperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 53.9% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)N3CCN(CC3)C)C=CC1 | C28H27FN6
